US04670427
Under nitrogen, 10.0 g of 17α-hydroxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione is agitated in 200 ml of caproic anhydride with 5.0 g of p-toluenesulfonic acid for 24 hours at room temperature. The excess caproic anhydride is distilled off with steam in the presence of 50 ml of pyridine. The residue is extracted with methylene chloride, the extract is dried with sodium sulfate and concentrated under vacuum. The crude product is purified on silica gel with an acetone-pentane gradient, thus obtaining 11.3 g of 17α-hexanoyloxy-1α,2α-methylene-4,6 pregnadiene-3,20-dione. [α]D25 =+85°.

reactant | 17α-hydroxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione | 10.0 g | O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O | C22H28O3
reactant | p-toluenesulfonic acid | 5.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | caproic anhydride | 200 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
product | 17α-hexanoyloxy-1α,2α-methylene-4,6 pregnadiene-3,20-dione | 11.3 g | C(CCCCC)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)C5)=O | C28H38O4
